US04999350
In the first step a condensation according to Wittig is carried out between 2,5-diacetyloxy-3,4,6-trimethylphenylacetaldehyde and carboethoxymethylentriphenylphosphorane, dissolving the two compounds in a suitable organic solvent under stirring, bringing then the solution to boil and refluxing it for a sufficiently long time. By evaporation of the solvent, ethyl trans-4-(2,5-diacetyloxy-3,4,6-trimethylphenyl)-2-butenoate is obtained, which is crystallized by a suitable solvent.

reactant | 2,5-diacetyloxy-3,4,6-trimethylphenylacetaldehyde | C(C)(=O)OC1=C(C(=C(C(=C1C)C)OC(C)=O)C)CC=O | C15H18O5
reactant | carboethoxymethylentriphenylphosphorane | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
product | ethyl trans-4-(2,5-diacetyloxy-3,4,6-trimethylphenyl)-2-butenoate | C(C)(=O)OC1=C(C(=C(C(=C1C)C)OC(C)=O)C)C/C=C/C(=O)OCC | C19H24O6
